US07462630B2
Synthesis of N-[2-(t-butylamino)-2-oxoethyl]-4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinecarboxamide:
300 mg (0.801 mmol) of ({[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]carbonyl}amino)acetic acid, 1.0 ml (0.961 mmol) of t-butylamine and 230 mg (1.20 mmol) of 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride were dissolved in 10 ml of dichloromethane. The obtained solution was stirred at room temperature for 1 hour. Water was added to the reaction mixture. After extracting with dichloromethane, the dichloromethane layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue thus obtained was purified by the silica gel chromatography (dichloromethane:methanol=4:1 to 1:9) to obtain the title compound.

reactant | ({[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]carbonyl}amino)acetic acid | 0.801 mmol, 300 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(=O)NCC(=O)O | C23H22N2O3
reactant | t-butylamine | 0.961 mmol, 1.0 ml | C(C)(C)(C)N | C4H11N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 1.20 mmol, 230 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | Water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[2-(t-butylamino)-2-oxoethyl]-4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinecarboxamide | C(C)(C)(C)NC(CNC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)=O | C27H31N3O2
